US05639913
(rac)-N-(p-Toluoyl)-1-aminoindan
The title compound was prepared from (rac)-1-aminoindan (5.0 g, 37.6 mmole) and p-toluoyl chloride (5.2 g, 33.8 mmole) as in Ex. 52; 4.8 g (19.1 mmole, 57%), mp: 140° C.

reactant | (rac)-1-aminoindan | 37.6 mmole, 5.0 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | p-toluoyl chloride | 33.8 mmole, 5.2 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | (rac)-N-(p-Toluoyl)-1-aminoindan | C1(=CC=C(C=C1)C(=O)NC1CCC2=CC=CC=C12)C | C17H17NO
